US07820641B2
7-Phenyl Sancycline
7-iodosancycline, 150 mg (0.28 mM), Pd(OAc)2 and 10 mL of MeOH are added to a flask with a stir bar and the system degassed 3× using argon. Na2CO3 (87 mg, 0.8 mM) dissolved in water and argon degassed is added via syringe is added along with phenylboronic acid (68 mg, 0.55 mM) in MeOH that was also degassed. The reaction was followed by HPLC for 2 hours and cooled to room temperature. The solution was filtered, and dried to produce a crude mixture. The solid was dissolved in dimethylformamide and injected onto a preparative HPLC system using C18 reverse-phase silica. The fraction at 36-38 minutes was isolated, and the solvent removed in vacuo to yield the product plus salts. The salts were removed by extraction into 50:25:25 water, butanol, ethyl acetate and dried in vacuo. This solid was dissolved in MeOH and the HCl salt made by bubbling in HCl gas. The solvent was removed to produce the product in 42% yield as a yellow solid.

reactant | 7-iodosancycline | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C=CC(=C4C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O)O)I | C21H21IN2O7
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | MeOH | 10 mL | CO | CH4O
product | 7-Phenyl Sancycline | 42% yield | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C=CC(=C4C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O)O)C5=CC=CC=C5 | C27H26N2O7
